US09388161B2
A mixture of (S)-(6-bromo-5-hydroxy-2-methyl-3,4-dihydroquinolin-1(2H)-yl)(cyclopropyl)methanone (1.00 g, 3.24 mmol), tert-butyl 4-(4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazol-1-yl)piperidine-1-carboxylate (2.40 g, 6.37 mmol), sodium carbonate (0.686 g, 6.47 mmol), [1,1′-bis(diphenylphosphino)ferrocene]dichloropalladium(II) dichloromethane adduct (0.263 g, 0.32 mmol), 1,4-dioxane (15 mL), and water (5 mL) stirred overnight at 80° C. The reaction mixture was cooled to room temperature, poured into water (20 mL), and extracted with ethyl acetate (3×20 mL). The combined organic layers were dried over anhydrous sodium sulfate, filtered, and concentrated under vacuum. The residue was purified via column chromatography on silica gel (eluting with 70% ethyl acetate/petroleum ether) to afford (S)-tert-butyl 4-(4-(1-(cyclopropanecarbonyl)-5-hydroxy-2-methyl-1,2,3,4-tetrahydroquinolin-6-yl)-1H-pyrazol-1-yl)piperidine-1-carboxylate (0.400 g, 26%) as a dark red solid. MS (ESI, pos. ion) m/z 481 [M+H]+.

reactant | (S)-(6-bromo-5-hydroxy-2-methyl-3,4-dihydroquinolin-1(2H)-yl)(cyclopropyl)methanone | 3.24 mmol, 1.00 g | BrC=1C(=C2CC[C@@H](N(C2=CC1)C(=O)C1CC1)C)O | C14H16BrNO2
reactant | tert-butyl 4-(4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazol-1-yl)piperidine-1-carboxylate | 6.37 mmol, 2.40 g | CC1(OB(OC1(C)C)C=1C=NN(C1)C1CCN(CC1)C(=O)OC(C)(C)C)C | C19H32BN3O4
reactant | sodium carbonate | 6.47 mmol, 0.686 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | 1,4-dioxane | 15 mL | O1CCOCC1 | C4H8O2
catalyst | [1,1′-bis(diphenylphosphino)ferrocene]dichloropalladium(II) dichloromethane | 0.32 mmol, 0.263 g | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2].ClCCl
solvent | water | 20 mL | O | H2O
solvent | water | 5 mL | O | H2O
product | (S)-tert-butyl 4-(4-(1-(cyclopropanecarbonyl)-5-hydroxy-2-methyl-1,2,3,4-tetrahydroquinolin-6-yl)-1H-pyrazol-1-yl)piperidine-1-carboxylate | 0.400 g, 26% | C1(CC1)C(=O)N1[C@H](CCC2=C(C(=CC=C12)C=1C=NN(C1)C1CCN(CC1)C(=O)OC(C)(C)C)O)C | C27H36N4O4
